US04205085
Ethyl 4-[11-(pentafluoroethyl)undecylamino]benzoate
A solution of 18.1 g. of 11-(pentafluoroethyl)-1-(methanesulfonyloxy)undecane and 19.8 g. of ethyl p-aminobenzoate in hexamethylphosphoramide is heated at 120° C. for 20 hours. After cooling, the reaction mixture is diluted with ethanol:water (1:1) (30 ml.) and chilled. More ethanol is added, the mixture is filtered and the solid residue is recrystallized from ethanol to yield the product as a white solid.

reactant | 11-(pentafluoroethyl)-1-(methanesulfonyloxy)undecane | FC(C(F)(F)F)(CCCCCCCCCCCOS(=O)(=O)C)F | C14H25F5O3S
reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | ethanol | C(C)O | C2H6O
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | ethanol water | 30 ml | C(C)O.O
product | Ethyl 4-[11-(pentafluoroethyl)undecylamino]benzoate | FC(C(F)(F)F)(CCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1)F | C22H32F5NO2
